US06562978B1
tert-Butyl 4-[4-(1H-Tetrazol-1-yl)anilino]-1-piperidinecarboxylate
To a solution of 4-(1H-tetrazol-1-yl)aniline (2 g, 12.4 mmol) and 1-tert-butoxycarbonyl-4-piperidone (3.71 g, 18.6 mmol) in THF (15 ml) were added acetic acid (1.42 ml, 24.8 mmol) and sodium triacetoxyborohydride (4 g, 18.6 mmol), successively, under ice cooling, and the mixture was stirred for 20 hours. To the mixture was added sodium triacetoxyborohydride (4 g, 18.6 mmol), and the mixture was stirred at room temperature for 20 hours. To the mixture was added saturated aqueous solution of sodium hydrogencarbonate (100 ml), and the mixture was stirred at room temperature for 1 hour. The mixture was extracted with ethyl acetate (100 ml), and the organic layer was washed with saturated sodium chloride solution (50 ml), dried over anhydrous sodium sulfate and concentrated under reduced pressure. To the concentrate was added diisopropyl ether (20 ml), and the resulting precipitates were collected by filtration to give the titled compound (4.2 g).

reactant | 4-(1H-tetrazol-1-yl)aniline | 12.4 mmol, 2 g | N1(N=NN=C1)C1=CC=C(N)C=C1 | C7H7N5
reactant | 1-tert-butoxycarbonyl-4-piperidone | 18.6 mmol, 3.71 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | acetic acid | 24.8 mmol, 1.42 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 18.6 mmol, 4 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium triacetoxyborohydride | 18.6 mmol, 4 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogencarbonate | 100 ml | C(O)([O-])=O.[Na+]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | tert-Butyl 4-[4-(1H-Tetrazol-1-yl)anilino]-1-piperidinecarboxylate | 4.2 g | N1(N=NN=C1)C1=CC=C(NC2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C17H24N6O2
